US08076345B2
B) 2-(4-Chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile
A mixture of 2-(4-methoxy-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile (4.15 g, 14.1 mmol), N,N-dimethylaniline (0.181 mL, 1.4 mmol), N,N-dimethylformamide (0.21 mL, 2.7 mmol) and acetonitrile (35 mL) was heated to dissolve at 105° C. Phosphoryl chloride (5.3 mL, 56 mmol) was added dropwise over 3 mins, and the reaction was heated to reflux at 110° C. After 40 mins, additional phosphoryl chloride (5.3 mL, 0.056 mol) was added dropwise over 3 mins. After another 20 hours, 1H NMR showed that the reaction was ca 70% complete and the reaction mixture was allowed to cool and poured over ice (200 g) and 45% aq. NaOH (75 mL) was added. The mixture was extracted with CH2Cl2 (3×200 mL). The combined organic layers were dried over sodium sulfate and concentrated. The residue was purified by silica gel column (0-100% EtOAc/hexane) to yield a brown oil which became a solid in the freezer.

reactant | 2-(4-methoxy-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile | 14.1 mmol, 4.15 g | COC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C16H16N4O
reactant | N,N-dimethylaniline | 1.4 mmol, 0.181 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | N,N-dimethylformamide | 2.7 mmol, 0.21 mL | CN(C=O)C | C3H7NO
reactant | Phosphoryl chloride | 56 mmol, 5.3 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphoryl chloride | 0.056 mol, 5.3 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 75 mL | [OH-].[Na+]
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
product | 2-(4-Chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile | ClC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C15H13ClN4
